### PR TITLE
[Merged by Bors] - feat: two topological lemmas for finite (co)dimension subspaces

### PR DESCRIPTION
**Pull request by ADedecker**
My application for these (Fredholm operators) is a bit far away, but I'm sure they will be useful in other contexts. Technically one of them could be deduced from the other, but the reduction is longer than the direct two-line proof.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by grunweg — COMMENTED** [review]
Thanks! (And Fredholm operators will be great to have!)
maintainer merge

File: Mathlib/Topology/Algebra/Module/FiniteDimension.lean [hunk 1]
```diff
@@ -536,6 +536,21 @@ theorem Submodule.closed_of_finiteDimensional
   haveI : IsUniformAddGroup E := isUniformAddGroup_of_addCommGroup
   s.complete_of_finiteDimensional.isClosed
 
+/-- If `s` is a closed subspace with finite codimension, any subspace containing `s` is closed. -/
+theorem Submodule.isClosed_mono_of_finiteDimensional_quotient
+    {s t : Submodule 𝕜 E} (s_le_t : s ≤ t) [FiniteDimensional 𝕜 (E ⧸ s)]
```
Comment (faenuccio) [inline Mathlib/Topology/Algebra/Module/FiniteDimension.lean]: I am a bit sceptical about the order of the variables, I would have put the `FiniteDimensional` one before `s_le_t`: but most importantly, I'm unsure about the mutual order of `s_le_t` and `s_closed` (which would in particular need to change its name to make dot notation work). Do you have an argument in favour of your choice?

File: Mathlib/Topology/Algebra/Module/FiniteDimension.lean [hunk 2]
```diff
@@ -536,6 +536,21 @@ theorem Submodule.closed_of_finiteDimensional
...
+    (s_closed : IsClosed (s : Set E)) :
+    IsClosed (t : Set E) := by
+  rw [show t = comap s.mkQ (map s.mkQ t) by simpa]
+  exact (map s.mkQ t).closed_of_finiteDimensional.preimage continuous_quot_mk
+
+/-- The supremum of a closed subspace and a finite dimensional subspace is still closed. -/
```
Comment (faenuccio) [inline Mathlib/Topology/Algebra/Module/FiniteDimension.lean]:
```suggestion
/-- The supremum of a closed subspace and a finite dimensional subspace is closed. -/
```

File: Mathlib/Topology/Algebra/Module/FiniteDimension.lean [hunk 3]
```diff
@@ -536,6 +536,21 @@ theorem Submodule.closed_of_finiteDimensional
...
+theorem Submodule.isClosed_sup_finiteDimensional
+    (s t : Submodule 𝕜 E) (hs : IsClosed (s : Set E)) [ht : FiniteDimensional 𝕜 t] :
+    IsClosed ((s ⊔ t : Submodule 𝕜 E) : Set E) := by
```
Comment (faenuccio) [inline Mathlib/Topology/Algebra/Module/FiniteDimension.lean:550]: Is there a reason to prefer the coercion to `Set E` rather than the projection `(...).carrier`? I see a very mildly convincing reason, but I wonder if you've got a better one.

File: Mathlib/Topology/Algebra/Module/FiniteDimension.lean [hunk 4]
```diff
@@ -536,6 +536,21 @@ theorem Submodule.closed_of_finiteDimensional
   haveI : IsUniformAddGroup E := isUniformAddGroup_of_addCommGroup
   s.complete_of_finiteDimensional.isClosed
 
+/-- If `s` is a closed subspace with finite codimension, any subspace containing `s` is closed. -/
+theorem Submodule.isClosed_mono_of_finiteDimensional_quotient
+    {s t : Submodule 𝕜 E} (s_le_t : s ≤ t) [FiniteDimensional 𝕜 (E ⧸ s)]
+    (s_closed : IsClosed (s : Set E)) :
+    IsClosed (t : Set E) := by
+  rw [show t = comap s.mkQ (map s.mkQ t) by simpa]
```
Comment (faenuccio) [inline Mathlib/Topology/Algebra/Module/FiniteDimension.lean:544]: It seems a bit dense with the `show` inside `rw`, but why not...

File: Mathlib/Topology/Algebra/Module/FiniteDimension.lean (hunk 3 above)
Comment (j-loreaux) [reply Mathlib/Topology/Algebra/Module/FiniteDimension.lean:550]: `SetLike.coe` is the normal form we use throughout the library. `.carrier` is only an implementation detail in some sense.

File: Mathlib/Topology/Algebra/Module/FiniteDimension.lean (hunk 1 above)
Comment (j-loreaux) [reply Mathlib/Topology/Algebra/Module/FiniteDimension.lean]: Variable order doesn't matter for dot notation (unless a there are two arguments with the same type as the namespace).

Comment (faenuccio) [reply Mathlib/Topology/Algebra/Module/FiniteDimension.lean]: Oh, sure, that was stupid! On the other hand, I still wonder if having the `s_closed` before would not be more handy in applications, when the `s_le_t` would be the final input in an `apply` call.

File: Mathlib/Topology/Algebra/Module/FiniteDimension.lean (hunk 3 above)
Comment (faenuccio) [reply Mathlib/Topology/Algebra/Module/FiniteDimension.lean:550]: Yes, I agree this is what we use throughout and I've should have phrased my question better. What I meant was to understand why we're still been unable to make the `Coe` to set fire in these cases and if the stress we put on sets in the topological library vs structures in the algebraic one does not deserve to spend more reflection time. Concerning this PR, I agree this makes perfect sense and that changing to `.carrier` in the current state of the library would be absurd.

Comment (ADedecker) [reply Mathlib/Topology/Algebra/Module/FiniteDimension.lean:550]: The underlying issue is that lean cannot figure the ambiant topological space soon enough. `IsClosed (X := E) s` works. I wonder wether there is some kind of "elaboration hint" which we could setup to mean "when `s` is `Submodule 𝕜 E`, the ambiant space is `E`".

Comment (faenuccio) [reply Mathlib/Topology/Algebra/Module/FiniteDimension.lean:550]: I find it already nicer, in the sense that it leverages class type inference rather than the explicit coercion.

File: Mathlib/Topology/Algebra/Module/FiniteDimension.lean (hunk 4 above)
Comment (ADedecker) [reply Mathlib/Topology/Algebra/Module/FiniteDimension.lean:544]: I used to think like you, but somehow I know find it quite readable (I read it as "replace `t` by `...` because you know they're equal)

Comment (faenuccio) [reply Mathlib/Topology/Algebra/Module/FiniteDimension.lean:544]: I agree it's just a matter of style, and since in this case it is solved by `simpa` it should not break. What I don't like too much is that it makes it not very nice to debug if the `rw` has a proper list of terms. With just one is OK.

File: Mathlib/Topology/Algebra/Module/FiniteDimension.lean (hunk 1 above)
Comment (ADedecker) [reply Mathlib/Topology/Algebra/Module/FiniteDimension.lean]: I think dot notation won't work in any case because this is in the `Submodule` namespace. I've switched the arguments.

File: Mathlib/Topology/Algebra/Module/FiniteDimension.lean (hunk 3 above)
Comment (ADedecker) [reply Mathlib/Topology/Algebra/Module/FiniteDimension.lean:550]: Note that this is really a readability issue : the reason we ususally add `_ : Set E` is precisely to indicate that the ambiant type is `E`, even before Lean actually looks for the coercion (I think). I'm happy to discuss this more, but this seems to be the syntax used in an overwhelming majority of cases, so I prefer to stick with it here.

Comment (faenuccio) [reply Mathlib/Topology/Algebra/Module/FiniteDimension.lean:550]: Yes, I completely agree. Mine was more of a digression hoping to create a discussion (that we'll have in the future :smile: )

**Comment by faenuccio** [comment]
Thanks!

bors r+
